US07479558B2
3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N,4-trimethylbenzamide
5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (0.102 g, 0.298 mmol), N,N,4-trimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide from above, (0.129 g, 0.447 mmol), and K2CO3 (0.123 g, 0.894 mmol), were taken up in dioxane (6 mL) and water (1.2 mL). The mixture was degassed with argon for 30 min and tetrakis(triphenyl-phosphine)palladium(0) (0.026 g, 0.022 mmol) was added. The mixture was then heated under argon at 95° C. for 18 h. The solvents were pumped off, and after aqueous workup, the crude material was flashed on silica gel (15 g), eluted with a EtOAc/CH2Cl2 gradient to give the title compound as a white amorphous solid. mp 144-147° C. LC-MS m/z 470 (M+H)+, 2.02 min (ret time).

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.298 mmol, 0.102 g | ClC1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4OS
reactant | N,N,4-trimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | CN(C(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O)C | C16H24BNO3
reactant | K2CO3 | 0.894 mmol, 0.123 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.2 mL | O | H2O
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N,4-trimethylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)N(C)C)C=CC2C)SC)=O | C23H21F2N5O2S
